US09315491B2
(2-Chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-4-yl)-acetic acid methyl ester
A mixture of (2,6-dichloro-5-methylsulfanyl-pyrimidin-4-yl)-acetic acid methyl ester (860 mg, 3.22 mmol.), morpholine (336 mg, 3.86 mmol, 1.2 eq.) and THF (10 ml) was stirred at room temperature for 2.0 hrs. The reaction mixture was dried and the solvent was evaporated. The reaction mixture was subjected to addition of 0.1 N HCl washing free morpholine, extraction with EA and evaporation to remove the EA so as to give a crude. Purification of the crude by flash chromatography on silica gel (Hexane/EtOAc 2:1) gave a gray solid of 427 mg (42.7%).

reactant | (2,6-dichloro-5-methylsulfanyl-pyrimidin-4-yl)-acetic acid methyl ester | 3.22 mmol, 860 mg | COC(CC1=NC(=NC(=C1SC)Cl)Cl)=O | C8H8Cl2N2O2S
reactant | morpholine | 3.86 mmol, 336 mg, 1.2 eq. | N1CCOCC1 | C4H9NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (2-Chloro-5-methylsulfanyl-6-morpholin-4-yl-pyrimidin-4-yl)-acetic acid methyl ester | COC(CC1=NC(=NC(=C1SC)N1CCOCC1)Cl)=O | C12H16ClN3O3S
